US07071175B1
(d) 2-(6-Amino-pyridin-3-ylmethyl)-3-mercapto-pentanoic acid/B
A solution of 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-pentanoic acid ethyl ester/B (51.6 mg; 0.13 mmol) in concentrated HCl (2 mL) was refluxed under argon for 1.5 hours. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure to afford 34.7 mg of the title compound as the hydrochloride salt.

reactant | 3-acetylsulfanyl-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-pentanoic acid ethyl ester | C(C)OC(C(C(CC)SC(C)=O)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C20H30N2O5S
solvent | HCl | 2 mL | Cl | ClH
product | 2-(6-Amino-pyridin-3-ylmethyl)-3-mercapto-pentanoic acid | 34.7 mg | NC1=CC=C(C=N1)CC(C(=O)O)C(CC)S | C11H16N2O2S
